US06436921B1
Beta-alanine, 17.8 g (0.2 mol) and 22 g of triethylamine (0.22 mol) were mixed and stirred in 150 ml of dichloromethane at 0° C. Di-t-butyldicarbonate, 43.5 9 g (0.2 mol) dissolved in 50 ml of dichloromethane was slowly added to above solution. The reaction mixture was stirred for an hour at 0° C. and subsequently extracted with dichloromethane and 100 ml of cold 1 N hydrochloric acid aqueous solution. The extracted dichloromethane solution was dried to obtain 36 g (95%) of N-(t-butyloxycarbonyl)-β-alanine.

reactant | Beta-alanine | NCCC(=O)O | C3H7NO2
reactant | triethylamine | 0.22 mol, 22 g | C(C)N(CC)CC | C6H15N
reactant | Di-t-butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(t-butyloxycarbonyl)-β-alanine | 36 g, 95% | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
